Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
___ Complaint:
bradycardia
 
Major Surgical or Invasive Procedure:
None this hospitalization

 
History of Present Illness:
Mr. ___ is a ___ with h/o throat cancer (s/p radiation 
___, hyperlipidemia, prolonged PR interval, bradycardia 
(___), and BPH who presents as instructed by his cardiologist 
for concerning findings on recent holter monitor and ETT.  
He recently underwent holter monitoring that showed several 
periods of Wenckebach block, as well as sinus pauses up to 2 
seconds. He had a period during a nap of multiple blocked P 
waves, that occured during sinus slowing and PR prolongation. He 
also underwent ETT (most likely ETT-MIBI based on pt's 
description) 2 weeks with ? poor chronotropic response. We do 
not have records of his recent ETT.  
On interview, pt states that he's been told by his cardiologist 
over the past ___ years that he needs a pacemaker but he has 
been avoiding one until now. He endorses fatigue x4-5 months, 
requiring frequent naps during the day. He reports vague 
unsteadiness, describing as "imbalance" but no lightheadedness 
or vertigo. No recent syncope or presyncope. However, he reports 
an incidence many years ago where he was swimming in the ocean 
and as he was walking out towards the beach, a big wave hit him 
and he lost consciousness for a short period of time. He was 
taken to the hospital and his HR was noted to be in the 20's.  
He is very active and surfs/swims on a regular basis with mild 
dyspnea but no chest pain, palpitation, or lightheadedness. No 
orthopnea, PND, ___ edema. No weight loss, fever, chills, 
recent illness, changes in BM, N/V, or abd pain. Endorses 
nocturnal polyuria (2x/night).  
In the ED initial vitals were: 98 60 130/81 16 99%.  
- Labs were significant for negative trops, normal CBC, chem7, 
and coags.  
Vitals prior to transfer were: 97.7 66 118/68 20 97% RA.  
On the floor, VS are: 97.4 119/67 18 69 96% on RA. Pt is in no 
acute distress.  
Review of Systems:  
(+) per HPI  

 
Past Medical History:
hyperlipidemia  
s/p appendectomy  
longstanding hx of prolonged AV conduction  
bradycardia  
BPH  
throat cancer s/p radiation in ___  

 
Social History:
___
Family History:
children with HTN and DM  
mom and dad died of old age  
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
Vitals - 97.4 119/67 18 69 96% on RA.  
GENERAL: NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
patent nares, MMM, good dentition  
NECK: nontender supple neck, no LAD, no JVD  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: moving all extremities well, no cyanosis, clubbing 
or edema  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  

DISCHARGE PHYSICAL EXAM:
========================
Vitals: T=97.7, 90-124/50-70, RR16, pulse 52-57, 97% on room air
75.6kg
GENERAL: NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
patent nares, MMM, good dentition  
NECK: nontender supple neck, no LAD, no JVD  
CARDIAC: Bradycardic on exam to 50, regular S1/S2, no murmurs, 
gallops, or rubs. 2+ radial and 2+DP/PTs, regular bradycardic.
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: moving all extremities well, no cyanosis, clubbing 
or edema  
PULSES: See CV
NEURO: CN II-XII intact  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  
 
Pertinent Results:
PERTINENT LABS:
===============
___ 07:52AM BLOOD WBC-5.1 RBC-4.72 Hgb-15.3 Hct-46.3 MCV-98 
MCH-32.3* MCHC-33.0 RDW-12.6 Plt ___
___ 07:00PM BLOOD WBC-7.4 RBC-4.87 Hgb-16.6 Hct-48.9 
MCV-100* MCH-34.0* MCHC-33.8 RDW-13.2 Plt ___
___ 07:52AM BLOOD Plt ___
___ 07:00PM BLOOD Plt ___
___ 07:00PM BLOOD ___ PTT-28.3 ___
___ 07:52AM BLOOD Glucose-112* UreaN-17 Creat-0.9 Na-140 
K-4.5 Cl-104 HCO3-29 AnGap-12
___ 07:00PM BLOOD Glucose-91 UreaN-16 Creat-0.8 Na-139 
K-4.2 Cl-103 HCO3-26 AnGap-14
___ 07:52AM BLOOD Calcium-9.4 Phos-3.6 Mg-2.0

METABOLIC/VITAMIN LABS:
=======================
___ 07:52AM BLOOD Vit___-___
___ 07:52AM BLOOD TSH-2.6

TROPONIN:
=========
___ 07:00PM BLOOD cTropnT-<0.01

IMAGING/STUDIES:
================

FROM OUTSIDE CARDIOLOGIST:
ETT ___:  
METS 10.5 with no ischemic EKG changes or angina like symptoms.  
 

ETT ___
METS 10.1 on ___ with no ischemic changes or angina like sx. 
LV size normal, sigmoid shaped septum with focal hypertrophy 
basal septum. EF 60-65%, mild aortic valve sclerosis NO 
stenosis, mild AR, normal stress echo. Was able to achieve 87% 
of max heart rate with exercise with a resting heart rate at 
exam of 63.  
 
___ monitor: Periods of ___ periodicity noted. During 
sleep a sinus pause of 2 sec, as well as period of three blocked 
p waves, preceeded by sinus slowing and PR invterval 
prolongation 
 
Brief Hospital Course:
Mr. ___ is a ___ y/o M with h/o throat cancer (s/p radiation 
___, hyperlipidemia, prolonged PR interval for many years, 
bradycardia (___'s), and BPH who presents as instructed by his 
cardiologist, Dr. ___ concerning findings on recent 
holter monitor and ETT. Holter monitor revealed AV nodal 
Wenckebach, sinus pauses up to 2 seconds, and blocked p waves 
during sleep. On ETT on ___ was unable to complete test, but 
did achieve ___ METS w/no ischemic signs and with appropriate 
pulse rise with exercise. Given the asymptomatic nature of his 
heart block, long hx of heart block, and appropriate pulse rise 
on recent ETT, no pacemaker placement is indicated for this 
patient at this time.

# Type 2 Heart Block: Mobitz 1
Patient has Type 1 heartblock with prolonged PR, seguing into 
Type 2, Mobitz 1 (___) block. Has known hx of heart block, 
and remains asymptomatic w/no presyncopal sx. Continues to 
remain active. He does note some fatigue with extreme exercise, 
but this is not an abnormal response. Because he remains 
asymptomatic at this time, pacemaker placement is not indicated. 
Patient is also very hesitant regarding placement of a pacer, 
and if possible would like to defer as he has for the past ___ 
years with Dr. ___. This plan of care was explained to the 
patient, and the patient was asked to immediately seek medical 
attention for pre-syncope or syncopal episodes, along with 
avoiding exercises with which a syncopal episode would place him 
at additional risk. This includes swimming in the ocean, or 
straining/lifting heavy items. All questions were answered, and 
team spoke with a colleague of Dr. ___ to further discuss 
the patient's management and explain reasons for no pacer 
placement this hospitalization. As an outpatient he should 
follow up regularly with his cardiologist, and the question of 
pacemaker placement can be re-evaluated in the future if 
necessary.

# Fatigue/Unsteadiness:
Unclear etiology. Occurs intermittently, and has been slow and 
progressive. Patient has no endocrine sx suggestive of 
hypothyroidism. In addition, TSH was WNL. Vitamin B12 also 
measured, which was WNL. Patient not anemic. These sx may be 
suggestive of normal aging, or may represent other underlying 
process. Patient should follow up with his primary care 
physician to further investigate this issue.

TRANSITIONAL ISSUES:
- Patient has 1st degree AV block, and at times 2nd degree AV 
block, Mobitz 1. Asymptomatic at this time, but known 
bradycardia to the ___. Very athletic, and may have high vagal 
resting tone.
- Needs continued cardiology and PCP follow up, if becomes 
symptomatic of heart block then may need to revisit pacer issue 
at later time
- Please avoid beta blockers or other medications that can 
worsen heart block
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 40 mg PO DAILY 
2. Aspirin 325 mg PO DAILY 
3. Omeprazole 20 mg PO DAILY 
4. Multivitamins 1 TAB PO DAILY 
5. Finasteride 5 mg PO DAILY 

 
Discharge Medications:
1. Aspirin 325 mg PO DAILY 
2. Atorvastatin 40 mg PO DAILY 
3. Finasteride 5 mg PO DAILY 
4. Multivitamins 1 TAB PO DAILY 
5. Omeprazole 20 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
2nd Degree AV Block, Mobitz 1 ___

Secondary:
1st Degree AV Block 
Bradycardia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___, 

You came to ___ at the direction of your cardiologist, Dr. 
___ due to continuing "heart block" where your heart beats 
slower than normal and the conduction of electrical signals from 
your sinus node are delayed before they reach the ventricles. 
For the most part you have 1st degree AV block, which is the 
mildest form of heart block. At times you experience 2nd degree 
AV block (Mobitz Type 1, ___). If asymptomatic, both of 
these types of heart block do not require a pacemaker. However, 
heart block can progress over time, and if you begin to 
experience severe lightheadedness, or lose consciousness, then 
you should be re-assessed as this could indicate progression of 
your heart block.

You have likely had your heart block for many years, and 
although you cannot "fix" heart block (without a pacemaker), it 
will be important for you to tell your physicians that you have 
this condition so that they avoid medicines such as beta 
blockers.

It has been a pleasure caring for you here at ___, and we wish 
you all the best. 

Kind Regards,
Your ___ Team
 
Followup Instructions:
___